US04684653
A mixture of 60.00 g (0.221 mol) of 3-cyano-2-(4-nitrophenylthio)-5-methylpyridine, 39.37 g (0.221 mol) of N-bromosuccinimide, 3.0 g of benzoyl peroxide and 60 mL of benzene was refluxed for 16 hours while being irradiated with a 275-W sunlamp. The solvent was removed under reduced pressure and the residue was shaken with a mixture of 1 L of water and 1 L of methylene chloride. The organic layer was separated, washed with 1 L of water, dried over anhydrous magnesium sulfate, and filtered. Removal of the solvent by evaporation under reduced pressure yielded 3-cyano-2-(4-nitrophenylthio)-5-bromomethylpyridine which can be used in the following step without further purification.

reactant | 3-cyano-2-(4-nitrophenylthio)-5-methylpyridine | 0.221 mol, 60.00 g | C(#N)C=1C(=NC=C(C1)C)SC1=CC=C(C=C1)[N+](=O)[O-] | C13H9N3O2S
reactant | N-bromosuccinimide | 0.221 mol, 39.37 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 3.0 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | benzene | 60 mL | C1=CC=CC=C1 | C6H6
product | 3-cyano-2-(4-nitrophenylthio)-5-bromomethylpyridine | C(#N)C=1C(=NC=C(C1)CBr)SC1=CC=C(C=C1)[N+](=O)[O-] | C13H8BrN3O2S
